US07368578B2
A mixture of 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl methanesulfonate (8.35 g), potassium carbonate (3.65 g), vanillin (4.02 g) and N,N-dimethylformamide (100 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate as colorless crystals (7.95 g, 72%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 136-137° C.

reactant | 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl methanesulfonate | 8.35 g | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)CCl)C | C12H12ClNO4S
reactant | potassium carbonate | 3.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | vanillin | 4.02 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate | 7.95 g, 72% | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)C=O)OC)C | C20H19NO7S
